US04446318
The procedure was carried out in accordance with Example 22, while utilizing 1.36 g of 7-ACA, 0.36 g of water, 8.0 ml of acetonitrile, 1.54 g of 2-ethoxycarbonylmethylthio-5-mercapto-1,3,4-thiadiazole and 5.04 g of diphosphoryl tetrachloride, and there was obtained 2.06 g (91.8%) of 7-amino-3-(2-ethoxycarbonylmethylthio-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid.

reactant | 7-ACA | 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | 0.36 g | O | H2O
reactant | 2-ethoxycarbonylmethylthio-5-mercapto-1,3,4-thiadiazole | 1.54 g | C(C)OC(=O)CSC=1SC(=NN1)S | C6H8N2O2S3
reactant | diphosphoryl tetrachloride | 5.04 g | P(=O)(OP(=O)(Cl)Cl)(Cl)Cl | Cl4O3P2
solvent | acetonitrile | 8.0 ml | C(C)#N | C2H3N
product | 7-amino-3-(2-ethoxycarbonylmethylthio-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.06 g, 91.8% | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)SCC(=O)OCC)C(=O)O)C1=O | C14H16N4O5S4
